US08420647B2
a) Lithium 2-chloro-4-(2,5-dichloro-phenoxy)-6-methyl-nicotinate
To a solution of 130 mg (0.36 mmol) 2-chloro-4-(2,5-dichloro-phenoxy)-6-methyl-nicotinic acid ethyl ester in 2 mL dioxane was added 2 mL water and 23 mg (0.541 mmol) lithium hydroxide monohydrate. The reaction mixture was stirred at 100° C. for 4 hours. The reaction mixture was allowed to cool down to room temperature and was concentrated under high vacuum. The so-obtained light yellow solid was pure enough for the next step without further purification. MS (ESI): 331.965 [M+H]+.

reactant | 2-chloro-4-(2,5-dichloro-phenoxy)-6-methyl-nicotinic acid ethyl ester | 0.36 mmol, 130 mg | C(C)OC(C1=C(N=C(C=C1OC1=C(C=CC(=C1)Cl)Cl)C)Cl)=O | C15H12Cl3NO3
reactant | water | 2 mL | O | H2O
reactant | lithium hydroxide monohydrate | 0.541 mmol, 23 mg | O.[OH-].[Li+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | Lithium 2-chloro-4-(2,5-dichloro-phenoxy)-6-methyl-nicotinate | ClC1=C(C(=O)[O-])C(=CC(=N1)C)OC1=C(C=CC(=C1)Cl)Cl.[Li+] | InChI=1S/C13H8Cl3NO3.Li/c1-6-4-10(11(13(18)19)12(16)17-6)20-9-5-7(14)2-3-8(9)15;/h2-5H,1H3,(H,18,19);/q;+1/p-1
